US07612114B2
2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}benzo[b]thiophen-6-ol
Synthesized from 5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenylamine and 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine according to an analogous synthetic method to Example 116, [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine (322 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (141 mg).

reactant | 5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1=CC2=C(S1)C=C(C=C2)OC | C16H15NO2S
reactant | 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine | BrC1=CC(=C(OCCN2CCCCC2)C=C1)F | C13H17BrFNO
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine | 322 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)OC)C1=CC2=C(S1)C=C(C=C2)OC | C29H31FN2O3S
product | 2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}benzo[b]thiophen-6-ol | 141 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)O)C1=CC2=C(S1)C=C(C=C2)O | C27H27FN2O3S
